US05158949
A mixture of 4-acetoxybenzoic acid (5.0 g) and triethylamine (3.0 g) in acetone (150 mL) at 0° C. was treated with ethyl chloroformate over 5 minutes with stirring. After a further 10 minutes, sodium azide (21.5 g) in water (10 mL) was added and the mixture maintained at 5° C. for 0.5 hour. The mixture was then concentrated at 45° C. under reduced pressure and the residue dissolved in toluene (200 mL) and washed with water and dried (Na2SO4). After evaporation of 100 mL of the toluene under reduced pressure, the solution was heated under reflux for 1 hour and cooled to 5° C. before addition of n-propylamine (3 mL). After a further 15 minutes, the mixture was evaporated to dryness and the residue dissolved in methanol (50 mL) and warmed with 10% aqueous NaOH (10 mL) at 60° C. for 15 minutes. Evaporation of the methanol and addition of water and 6N HCl gave a solid which was filtered, washed with water and crystallized from acetone-ether to give 4-n-propylaminocarbonylaminophenol (3.1 g).

reactant | 4-acetoxybenzoic acid | 5.0 g | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 21.5 g | [N-]=[N+]=[N-].[Na+]
reactant | acetone | 150 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | 4-n-propylaminocarbonylaminophenol | 3.1 g | C(CC)NC(=O)NC1=CC=C(C=C1)O | C10H14N2O2
